US07786292B2
Synthesis of 4-(1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid
To solution of Cyclam (0.913 g, 4.5 mmol) dissolved in a mixture of ethanol:water (5:1 by vol.) (18 ml) was added a solution of 4-chloromethylbenzoic acid (0.157 g, 0.92 mmol) in aqueous LiOH (53 mg in 4 ml of water). This mixture was thereafter refluxed vigorously with stirring for 5 hours. Then the solvent was removed at reduced pressure, and the residue was dissolved in 13 ml of water. The aqueous solution obtained was then extracted with chloroform (10 times 3 ml) and the aqueous layer was concentrated at reduced pressure down to 2 ml. The product as a white solid was precipitated by adding the solution of concentrated HCl and ethanol and purified by recrystallizing from ethanol/water/HCl to yield 0.205 g of the title compound. According to the LC-MS, the assay of 4-(1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid hydrochloride was >95%.

reactant | Cyclam | 4.5 mmol, 0.913 g | N1CCNCCCNCCNCCC1 | C10H24N4
reactant | 4-chloromethylbenzoic acid | 0.92 mmol, 0.157 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
solvent | ethanol water | 18 ml | C(C)O.O
solvent | LiOH | 4 ml, 53 mg | [Li+].[OH-]
product | 4-(1,4,8,11-tetraazacyclotetradec-1-ylmethyl)-benzoic acid | 0.205 g | N1(CCNCCCNCCNCCC1)CC1=CC=C(C(=O)O)C=C1 | C18H30N4O2
